* C:\Git\EE435\HW2\LTSpice\Problem4.asc
V1 N002 0 .5V
V2 N004 0 -1V
V3 N001 0 1V
I1 N001 VOUT 4mA
M1 VOUT N002 N004 N003 TSMC180nmN l=1u w=30u pd=100u
R1 VOUT 0 10e9
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Jetsan\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 1000s uic
.include CMOSNNMOS.txt
.backanno
.end
